US06207678B1
Methanesulphonyl chloride (2.4 ml) was added dropwise to an ice-cooled solution of 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butan-1-ol (8.13 g) (see Preparation 28) and triethylamine (5.32 ml) in dichloromethane (100 ml) under a nitrogen atmosphere. The mixture was stirred for 10 minutes at 0° C. and then 90 minutes at room temperature before being washed twice with water. The organic phase was separated, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give the crude product. This was chromatographed on silica gel eluting with 95:5, by volume, dichloromethane:diethyl ether to give 1-methanesulphonyloxy-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane (8.85 g) as a yellow oil and as a mixture of diastereomers.

reactant | Methanesulphonyl chloride | 2.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butan-1-ol | 8.13 g | ClC=1C=C(C=CC1Cl)C(CO)CCOC1OCCCC1 | C15H20Cl2O3
reactant | triethylamine | 5.32 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-methanesulphonyloxy-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane | 8.85 g | CS(=O)(=O)OCC(CCOC1OCCCC1)C1=CC(=C(C=C1)Cl)Cl | C16H22Cl2O5S
